US07312234B2
AMD9413: Preparation of pyridine-2-carboxylic acid (4-{[(1H-benzoimidazol-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-methyl}-phenyl)-amide
Using general procedure B: Reaction of pyridine-2-carboxylic acid {4-[(5,6,7,8-tetrahydro-quinolin-8-ylamino)-methyl]-phenyl}-amide (AMD9409) (67 mg, 0.19 mmol), 1H-benzoimidazole-2-carbaldehyde (30 mg, 0.21 mmol), and NaBH(OAc)3 (119 mg, 0.50 mmol) for 0.5 h at 60° C. followed by purification of the crude product by column chromatography on silica gel (CH2Cl2/MeOH/NH4OH 198:1:1) gave AMD9413 (48 mg, 53%) as a white foam. 1H NMR (300 MHz, CDCl3) δ 1.62-1.75 (m, 1H), 1.96-2.07 (m, 2H), 2.23-2.30 (m, 1H), 2.68-2.91 (m, 2H), 3.74 (br s, 2H), 3.98 (d, 1H, J=16.8 Hz), 4.09 (m, 1H), 4.19 (d, 1H, J=16.5 Hz), 7.16-7.20 (m, 3H), 7.41-7.46 (m, 4H), 7.53 (d, 1H, J=6.0 Hz), 7.64-7.67 (m, 3H), 7.87 (ddd, 1H, J=7.5, 7.5, 1.5 Hz), 8.26 (d, 1H, J=7.8 Hz), 8.58 (d, 1H, J=3.9 Hz), 8.70 (d, 1H, J=3.3 Hz), 9.94 (br s, 1H); 13C NMR (75.5 MHz, CDCl3) δ 21.39, 23.41, 29.22, 48.54, 53.54, 60.11, 119.57, 121.50, 122.25, 122.36, 126.37, 129.28, 134.71, 135.33, 136.73, 137.21, 137.62, 146.93, 147.93, 149.80, 157.47, 161.84. ES-MS m/z 489 (M+H). Anal. Calcd. for C30H28N6O.0.5H2O.0.3CHCl3: C, 68.23; H, 5.54; N, 15.76. Found: C, 68.06; H, 5.54; N, 15.46.

reactant | pyridine-2-carboxylic acid {4-[(5,6,7,8-tetrahydro-quinolin-8-ylamino)-methyl]-phenyl}-amide | 0.19 mmol, 67 mg | N1=CC=CC=2CCCC(C12)NCC1=CC=C(C=C1)NC(=O)C1=NC=CC=C1 | C22H22N4O
reactant | 1H-benzoimidazole-2-carbaldehyde | 0.21 mmol, 30 mg | N1C(=NC2=C1C=CC=C2)C=O | C8H6N2O
reactant | NaBH(OAc)3 | 0.50 mmol, 119 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
product | pyridine-2-carboxylic acid (4-{[(1H-benzoimidazol-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-methyl}-phenyl)-amide | N1C(=NC2=C1C=CC=C2)CN(C2CCCC=1C=CC=NC21)CC2=CC=C(C=C2)NC(=O)C2=NC=CC=C2 | C30H28N6O
